US06150373
A solution of 2.5 g (8.65 mmol) of 5-formyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine in 120 ml of toluene was treated with 1.5 g (9.3 mmol) of 2-bromoaniline and 100 mg (0.5 mmol) of 4-toluenesulfonic acid monohydrate and then heated at reflux with azeotropic removal of water for 1 hour. The cooled mixture was evaporated and the residue was dissolved in 4 ml of tetrahydrofuran. The solution obtained was added dropwise to a solution of 9 ml (9 mmol) of lithium aluminium hydride (as a 1M solution in tetrahydrofuran) in 40 ml of tetrahydrofuran. After 1 hour the reaction was quenched by the cautious dropwise addition of 0.35 ml of water, 0.35 ml of 2M aqueous sodium hydroxide and 1 ml of water. The resulting suspension was filtered through a filter aid and the filtrate was evaporated. The residue was partitioned between 150 ml of ethyl acetate and 50 ml of saturated aqueous sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 3.5 g (91%) of 5-(2-bromoanilino)methyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine as an orange colored gum. [Mass spectrum (ESI) MH+ =444].

reactant | 5-formyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine | 8.65 mmol, 2.5 g | C(=O)C=1C(=NC(=NC1)SC)NC1=CC(=CC=C1)CCO | C14H15N3O2S
reactant | 2-bromoaniline | 9.3 mmol, 1.5 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | water | O | H2O
reactant | lithium aluminium hydride | 9 mmol, 9 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | 4-toluenesulfonic acid monohydrate | 0.5 mmol, 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-(2-bromoanilino)methyl-4-[3-(2-hydroxyethyl)phenyl]amino-2-methylthiopyrimidine | 3.5 g, 91% | BrC1=C(NCC=2C(=NC(=NC2)SC)NC2=CC(=CC=C2)CCO)C=CC=C1 | C20H21BrN4OS
